US07402600B2
a) Synthesis of the 3-(6-methoxy-α-methyl-2-naphthalenacetyl)(R)-2-oxothiazolidin-4-carboxylic acid
To a solution of 6-methoxy-α-methyl-2-naphthalenacetic acid (7.0 g, 30.4 mmoles) in toluene (100 ml) and N,N-dimethylformamide (10 ml) cooled at 0° C., oxalylchloride (5.23 ml, 61 mmoles) is added. After 2 hours at room temperature the solution is evaporated at reduced pressure. To the solution of the obtained residue dissolved in tetrahydrofuran (50 ml) a mixture is added consisting of 2-oxothiazolidin-4-carboxylic acid (4.07 g, 27.6 mmoles), 4-dimethylaminopyridine (0.84 g, 6.9 mmoles), triethylamine (7.69 ml, 55.2 mmoles) in tetrahydrofuran (50 ml) cooled at −10° C. The mixture is left at room temperature for 24 hours. The reaction mixture is washed with HCl 5%, then with water. The organic phase is anhydrified with sodium sulphate and then evaporated at reduced pressure. The obtained residue is purified by chromatography on silica gel eluting with methylene chloride/methanol 95/5. 6.79 g of the expected product are obtained in the form of an amorphous solid.

reactant | 6-methoxy-α-methyl-2-naphthalenacetic acid | 30.4 mmoles, 7.0 g | COC=1C=C2C=CC(=CC2=CC1)C(C(=O)O)C | C14H14O3
reactant | oxalylchloride | 61 mmoles, 5.23 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-oxothiazolidin-4-carboxylic acid | 27.6 mmoles, 4.07 g | O=C1SCC(N1)C(=O)O | C4H5NO3S
reactant | triethylamine | 55.2 mmoles, 7.69 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 6.9 mmoles, 0.84 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-(6-methoxy-α-methyl-2-naphthalenacetyl)(R)-2-oxothiazolidin-4-carboxylic acid | 6.79 g | COC=1C=C2C=CC(=CC2=CC1)C(C(=O)N1C(SC[C@H]1C(=O)O)=O)C | C18H17NO5S
